US05648336
Synthesis and Derivatization of N-(1-Indanyl)Glycine
Alternatively, 1-indanone was reductively aminated with glycine methyl ester, followed by saponification of the ester.

reactant | 1-indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
product | N-(1-Indanyl)Glycine | C1(CCC2=CC=CC=C12)NCC(=O)O | C11H13NO2
